US05334225
To 13 ml of water, there were added 5.00 g (40.7 mmol) of 6-amino-m-cresol, 9.76 g of (162.6 mmol) of urea, 4 ml of conc. hydrochloric acid and 0.8 ml of a mixture (1:1 (v:v)) of conc. hydrochloric acid and glacial acetic acid, followed by heating under reflux for 1.5 hours. After cooling, 20 ml of water was added. The crystals thus precipitated were filtered and dried to thereby give 5.81 g (35.0 mmol) of N-(2-hydroxy-4-methylphenyl)urea as dark brown crystals. The yield was 86%. After recrystallizing from acetonitrile, 2.00 g of N-(2-hydroxy-4-methylphenyl)urea was obtained as pale purple crystals. The recovering yield was 34%.

reactant | 6-amino-m-cresol | 40.7 mmol, 5.00 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | urea | 162.6 mmol, 9.76 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 13 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)urea | 35.0 mmol, 5.81 g, yield was 86% | OC1=C(C=CC(=C1)C)NC(=O)N | C8H10N2O2
